US07812022B2
The title compound was synthesized by combining N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (152 mg, 0.33 mmol), (5-amino-2,3-dihydro-1H-inden-2-yl)dimethylamine (70 mg, 0.40 mmol), hydrochloric acid (0.033 mmol, 33 uL 1M HCl/diethylether) and 3 mL isopropanol in a sealed vessel. The vial and contents were heated at 180° C. for 30 mins. The reaction was cooled and concentrated. The residue was partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was washed with brine, dried with MgSO4 and concentrated. The crude material was purified by silica gel column chromatography (0-100% gradient; (90% CH2Cl2:9% MeOH:1% NH4OH/CH2Cl2)) Purification provided 28 mg (14%) of the coupled adduct. ESIMS (M+H)+=603.30.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.33 mmol, 152 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | (5-amino-2,3-dihydro-1H-inden-2-yl)dimethylamine | 0.40 mmol, 70 mg | NC=1C=C2CC(CC2=CC1)N(C)C | C11H16N2
reactant | hydrochloric acid | 0.033 mmol, 1M, 33 uL | Cl | ClH
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | N-{3-[3-(2-{[2-(Dimethylamino)-2,3-dihydro-1H-inden-5-yl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | CN(C1CC2=CC=C(C=C2C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O)C | C35H29F2N7O
